** sch_path: /home/take/Design/tr10_sram/sram/sram_2w16b_top.sch
.subckt sram_2w16b_top VDD WLE DOUT0 VSS A0 WE DIN0 DIN1 PCB DOUT15 DIN2 DIN3 DIN4 DIN5 DIN6 DIN7 DIN8 DIN9 DIN10 DIN11 DIN12
+ DIN13 DIN14 DIN15
*.PININFO VDD:B WLE:I DOUT0:O VSS:B A0:I WE:I DIN0:I DIN1:I PCB:I DOUT15:O DIN2:I DIN3:I DIN4:I DIN5:I DIN6:I DIN7:I DIN8:I DIN9:I
*+ DIN10:I DIN11:I DIN12:I DIN13:I DIN14:I DIN15:I
x2 VDD VSS WL0 WLE A0 WL1 decoder
x4 VDD VSS PCB EQEN BL0 BLB0 BL15 BLB15 precharge
x5 VDD VSS BLB0 BLB15 DOUT0 DOUT15 read_buffer
MXM1 WEB WE VSS VSS NMOS w=3.4u l=1u
MXM2 WEB WE VDD VDD PMOS w=6.8u l=1u
MXM3 EQEN PCB VSS VSS NMOS w=3.4u l=1u
MXM4 EQEN PCB VDD VDD PMOS w=6.8u l=1u
x1 WL0 VDD VSS WL1 BLB10 BL9 BLB8 BL13 BL12 BLB12 BLB9 BL11 BL10 BL14 BLB14 BLB13 BLB15 BL15 BLB11 BL8 BL5 BLB4 BL1 BL4 BLB3 BLB0
+ BL3 BLB7 BLB2 BL7 BLB6 BL6 BLB5 BL2 BLB1 BL0 sram_2w16b
x12 DIN0 VDD BL0 BLB0 VSS DIN1 BL1 WE BLB1 WEB write_driver
x13 DIN2 VDD BL2 BLB2 VSS DIN3 BL3 WE BLB3 WEB write_driver
x14 DIN4 VDD BL4 BLB4 VSS DIN5 BL5 WE BLB5 WEB write_driver
x15 DIN6 VDD BL6 BLB6 VSS DIN7 BL7 WE BLB7 WEB write_driver
x16 DIN8 VDD BL8 BLB8 VSS DIN9 BL9 WE BLB9 WEB write_driver
x17 DIN10 VDD BL10 BLB10 VSS DIN11 BL11 WE BLB11 WEB write_driver
x18 DIN12 VDD BL12 BLB12 VSS DIN13 BL13 WE BLB13 WEB write_driver
x19 DIN14 VDD BL14 BLB14 VSS DIN15 BL15 WE BLB15 WEB write_driver
.ends

* expanding   symbol:  decoder.sym # of pins=6
** sym_path: /home/take/Design/tr10_sram/sram/decoder.sym
** sch_path: /home/take/Design/tr10_sram/sram/decoder.sch
.subckt decoder VDD VSS WL0 WLE A0 WL1
*.PININFO VDD:B VSS:B WLE:I WL0:O WL1:O A0:I
MXM7 A0B A0 VDD VDD PMOS w=6.8u l=1u
MXM8 A0B A0 VSS VSS NMOS w=3.4u l=1u
MXM9 net2 WLE VDD VDD PMOS w=6.8u l=1u
MXM10 net1 WLE VSS VSS NMOS w=6.8u l=1u
MXM11 net2 A0B net1 VSS NMOS w=6.8u l=1u
MXM12 net2 A0B VDD VDD PMOS w=6.8u l=1u
MXM13 WL0 net2 VDD VDD PMOS w=6.8u l=1u
MXM14 WL0 net2 VSS VSS NMOS w=3.4u l=1u
MXM15 net4 WLE VDD VDD PMOS w=6.8u l=1u
MXM16 net3 WLE VSS VSS NMOS w=6.8u l=1u
MXM17 net4 A0 net3 VSS NMOS w=6.8u l=1u
MXM18 net4 A0 VDD VDD PMOS w=6.8u l=1u
MXM19 WL1 net4 VDD VDD PMOS w=6.8u l=1u
MXM20 WL1 net4 VSS VSS NMOS w=3.4u l=1u
.ends


* expanding   symbol:  precharge.sym # of pins=8
** sym_path: /home/take/Design/tr10_sram/sram/precharge.sym
** sch_path: /home/take/Design/tr10_sram/sram/precharge.sch
.subckt precharge VDD VSS PCB EQEN BL0 BLB0 BL1 BLB1
*.PININFO VDD:B VSS:B PCB:I EQEN:I BL0:B BLB0:B BL1:B BLB1:B
MXM9 BL0 PCB VDD VDD PMOS w=3.4u l=1u
MXM10 BLB0 PCB VDD VDD PMOS w=3.4u l=1u
MXM11 BL0 EQEN BLB0 VSS NMOS w=3.4u l=1u
MXM12 BL1 PCB VDD VDD PMOS w=3.4u l=1u
MXM13 BLB1 PCB VDD VDD PMOS w=3.4u l=1u
MXM14 BL1 EQEN BLB1 VSS NMOS w=3.4u l=1u
.ends


* expanding   symbol:  read_buffer.sym # of pins=6
** sym_path: /home/take/Design/tr10_sram/sram/read_buffer.sym
** sch_path: /home/take/Design/tr10_sram/sram/read_buffer.sch
.subckt read_buffer VDD VSS BLB0 BLB1 DOUT0 DOUT1
*.PININFO VDD:B VSS:B BLB0:I BLB1:I DOUT0:O DOUT1:O
MXM15 DOUT0 BLB0 VDD VDD PMOS w=6.8u l=1u
MXM16 DOUT0 BLB0 VSS VSS NMOS w=3.4u l=1u
MXM1 DOUT1 BLB1 VDD VDD PMOS w=6.8u l=1u
MXM2 DOUT1 BLB1 VSS VSS NMOS w=3.4u l=1u
.ends


* expanding   symbol:  sram_2w16b.sym # of pins=36
** sym_path: /home/take/Design/tr10_sram/sram/sram_2w16b.sym
** sch_path: /home/take/Design/tr10_sram/sram/sram_2w16b.sch
.subckt sram_2w16b WL0 VDD VSS WL1 BLB10 BL9 BLB8 BL13 BL12 BLB12 BLB9 BL11 BL10 BL14 BLB14 BLB13 BLB15 BL15 BLB11 BL8 BL5 BLB4
+ BL1 BL4 BLB3 BLB0 BL3 BLB7 BLB2 BL7 BLB6 BL6 BLB5 BL2 BLB1 BL0
*.PININFO VDD:B VSS:B WL0:I WL1:I BL0:B BLB0:B BL1:B BLB1:B BL2:B BLB2:B BL3:B BLB3:B BL4:B BLB4:B BL5:B BLB5:B BL6:B BLB6:B BL7:B
*+ BLB7:B BL8:B BLB8:B BL9:B BLB9:B BL10:B BLB10:B BL11:B BLB11:B BL12:B BLB12:B BL13:B BLB13:B BL14:B BLB14:B BL15:B BLB15:B
x1 BL0 BLB0 WL1 VDD VSS sram6t_tr10
x2 BL0 BLB0 WL0 VDD VSS sram6t_tr10
x3 BL1 BLB1 WL0 VDD VSS sram6t_tr10
x4 BL1 BLB1 WL1 VDD VSS sram6t_tr10
x5 BL2 BLB2 WL1 VDD VSS sram6t_tr10
x6 BL2 BLB2 WL0 VDD VSS sram6t_tr10
x7 BL3 BLB3 WL0 VDD VSS sram6t_tr10
x8 BL3 BLB3 WL1 VDD VSS sram6t_tr10
x9 BL4 BLB4 WL1 VDD VSS sram6t_tr10
x10 BL4 BLB4 WL0 VDD VSS sram6t_tr10
x11 BL5 BLB5 WL0 VDD VSS sram6t_tr10
x12 BL5 BLB5 WL1 VDD VSS sram6t_tr10
x13 BL6 BLB6 WL1 VDD VSS sram6t_tr10
x14 BL6 BLB6 WL0 VDD VSS sram6t_tr10
x15 BL7 BLB7 WL0 VDD VSS sram6t_tr10
x16 BL7 BLB7 WL1 VDD VSS sram6t_tr10
x17 BL8 BLB8 WL1 VDD VSS sram6t_tr10
x18 BL8 BLB8 WL0 VDD VSS sram6t_tr10
x19 BL9 BLB9 WL0 VDD VSS sram6t_tr10
x20 BL9 BLB9 WL1 VDD VSS sram6t_tr10
x21 BL10 BLB10 WL1 VDD VSS sram6t_tr10
x22 BL10 BLB10 WL0 VDD VSS sram6t_tr10
x23 BL11 BLB11 WL0 VDD VSS sram6t_tr10
x24 BL11 BLB11 WL1 VDD VSS sram6t_tr10
x25 BL12 BLB12 WL1 VDD VSS sram6t_tr10
x26 BL12 BLB12 WL0 VDD VSS sram6t_tr10
x27 BL13 BLB13 WL0 VDD VSS sram6t_tr10
x28 BL13 BLB13 WL1 VDD VSS sram6t_tr10
x29 BL14 BLB14 WL1 VDD VSS sram6t_tr10
x30 BL14 BLB14 WL0 VDD VSS sram6t_tr10
x31 BL15 BLB15 WL0 VDD VSS sram6t_tr10
x32 BL15 BLB15 WL1 VDD VSS sram6t_tr10
.ends


* expanding   symbol:  write_driver.sym # of pins=10
** sym_path: /home/take/Design/tr10_sram/sram/write_driver.sym
** sch_path: /home/take/Design/tr10_sram/sram/write_driver.sch
.subckt write_driver DIN0 VDD BL0 BLB0 VSS DIN1 BL1 WE BLB1 WEB
*.PININFO DIN0:I DIN1:I WE:I WEB:I BL0:B BLB0:B BL1:B BLB1:B VDD:B VSS:B
MXM15 DIN0B DIN0 VDD VDD PMOS w=6.8u l=1u
MXM16 DIN0B DIN0 VSS VSS NMOS w=3.4u l=1u
MXM7 BL0 WE DIN0 VSS NMOS w=5.2u l=1u
MXM8 DIN0 WEB BL0 VDD PMOS w=6.8u l=1u
MXM1 BLB0 WE DIN0B VSS NMOS w=5.2u l=1u
MXM2 DIN0B WEB BLB0 VDD PMOS w=6.8u l=1u
MXM3 DIN1B DIN1 VDD VDD PMOS w=6.8u l=1u
MXM4 DIN1B DIN1 VSS VSS NMOS w=3.4u l=1u
MXM5 BL1 WE DIN1 VSS NMOS w=5.2u l=1u
MXM6 DIN1 WEB BL1 VDD PMOS w=6.8u l=1u
MXM9 BLB1 WE DIN1B VSS NMOS w=5.2u l=1u
MXM10 DIN1B WEB BLB1 VDD PMOS w=6.8u l=1u
.ends


* expanding   symbol:  sram6t_tr10.sym # of pins=5
** sym_path: /home/take/Design/tr10_sram/sram/sram6t_tr10.sym
** sch_path: /home/take/Design/tr10_sram/sram/sram6t_tr10.sch
.subckt sram6t_tr10 BL BLB WL VDD VSS
*.PININFO BL:B BLB:B WL:I VDD:B VSS:B
MXM1 net1 net2 VDD VDD PMOS w=3.4u l=1u
MXM2 net2 net1 VDD VDD PMOS w=3.4u l=1u
MXM4 net2 net1 VSS VSS NMOS w=6.8u l=1u
MXM3 net1 net2 VSS VSS NMOS w=6.8u l=1u
MXM5 BL WL net1 VSS NMOS w=5.1u l=1u
MXM6 BLB WL net2 VSS NMOS w=5.1u l=1u
.ends

